US06720320B2
(S)-2-(N,N-dimethylsulfamoyl)-4-glycidyloxybenzo(b)furan
By the reactions in the same manner as in Starting Material Synthesis Example 1 using 2-(N,N-dimethylsulfamoyl)-4-methoxybenzo(b)furan (1.10 g), (S)-glycidyl nosylate (1.30 g) and potassium carbonate (1.89 g), a crude product of the title compound was quantitatively obtained as a pale-yellow oil.

reactant | 2-(N,N-dimethylsulfamoyl)-4-methoxybenzo(b)furan | 1.10 g | CN(S(=O)(=O)C1=CC2=C(O1)C=CC=C2OC)C | C11H13NO4S
reactant | (S)-glycidyl nosylate | 1.30 g | S(=O)(=O)(OC[C@@H]1CO1)C1=CC=C([N+](=O)[O-])C=C1 | C9H9NO6S
reactant | potassium carbonate | 1.89 g | C([O-])([O-])=O.[K+].[K+]
product | (S)-2-(N,N-dimethylsulfamoyl)-4-glycidyloxybenzo(b)furan | CN(S(=O)(=O)C1=CC2=C(O1)C=CC=C2OC[C@@H]2CO2)C | C13H15NO5S
